US07205409B2
5-Hydroxy-naphthalene-1-carboxylic acid tert-butyl ester
The title compound was synthesized by substituting 4-benzyloxy-3-tert-butyl-benzoic acid in Example 47D with 5-hydroxy-naphthalene-1-carboxylic acid (Girardet, Lo Russo. Helv.Chim.Acta;, 49, 471–478, 1966). MS (DCI) m/z 245 (M+H)+.

reactant | 4-benzyloxy-3-tert-butyl-benzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)C(C)(C)C | C18H20O3
reactant | 5-hydroxy-naphthalene-1-carboxylic acid | OC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H8O3
product | 5-Hydroxy-naphthalene-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=CC=CC2=C(C=CC=C12)O | C15H16O3
